US06864396B2
A mixture of 1.0 grams of 7,14-dihydro-1,4,8,11-tetramethylpentacene-5,12-dione and 10 mL of 2-methoxyethyl ether was stirred and flushed with nitrogen for 15 minutes. To this was added 0.875 grams of sodium borohydride and stirring was continued at room temperature overnight. To the mixture was added 20 mL of 2-methoxyethyl ether and 0.75 grams of sodium borohydride and heating was continued overnight at 60° C. To the mixture was added 6.3 mL of methanol and 0.75 grams of sodium borohydride and stirring was continued for 6 hours at room temperature. To the mixture was added 15 mL of acetic acid and the mixture was stirred for one hour at room temperature. To the mixture was added 10 mL of concentrated hydrochloric acid and the mixture was heated to 60° C. for 1.5 hours. The solid was isolated by filtration and then washed with water and dried to give 1,4,8,11-tetramethylpentacene.

reactant | 7,14-dihydro-1,4,8,11-tetramethylpentacene-5,12-dione | 1.0 grams | CC1=CC=C(C=2C(C3=CC=4CC5=C(C=CC(=C5C(C4C=C3CC12)=O)C)C)=O)C | C26H22O2
solvent | 2-methoxyethyl ether | 10 mL | COCCOCCOC | C6H14O3
product | 1,4,8,11-tetramethylpentacene | CC1=CC=C(C2=CC3=CC4=CC5=C(C=CC(=C5C=C4C=C3C=C12)C)C)C | C26H22
